US04414211
A suspension of 17.0 g (0.067 mole) of N-(3-methyl-2-thiazolidinylidene)-N'-phenylthiourea and 11.1 g (0.078 mole) of iodomethane in 350 ml of acetone is refluxed for one hour. The solution is cooled at room temperature overnight (about 16 hours) and solids are filtered off, 25.1 g (95.2%), m.p. 159.5°-161.5° C. Recrystallization from methanol-ether (1:1) gives pure methyl N-(3-methyl-2-thiazolidinylidene)-N'-phenylcarbamimidothioate hydroiodide; m.p. 163.5°-165° C.

reactant | N-(3-methyl-2-thiazolidinylidene)-N'-phenylthiourea | 0.067 mole, 17.0 g | CN1C(SCC1)=NC(=S)NC1=CC=CC=C1 | C11H13N3S2
reactant | iodomethane | 0.078 mole, 11.1 g | IC | CH3I
solvent | acetone | 350 ml | CC(=O)C | C3H6O
product | methyl N-(3-methyl-2-thiazolidinylidene)-N'-phenylcarbamimidothioate hydroiodide | I.CN1C(SCC1)=NC(=NC1=CC=CC=C1)SC | InChI=1S/C12H15N3S2.HI/c1-15-8-9-17-12(15)14-11(16-2)13-10-6-4-3-5-7-10;/h3-7H,8-9H2,1-2H3;1H
